Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is a ___ year old man with a PMH notable for HIV 
(on ART, well controlled) CM with LVOT obstruction (last EF 45%) 
who presents with fever.  
 Mr ___ reports being in his USOH until 1 day prior when he 
began to feel ill on ___ ___. He developed fever with chills, 
which was associated with a headache, left ear pain, a sensation 
of not being able to swallow, mild chest tightness, and myalgias 
- predominantly lower back and proximal limbs. Tmax at home 
102.8. He specifically denies any cough, sinus tenderness, 
shortness of breath, sore throat, neck pain or stiffness, 
glandular pain, abdominal pains, diarrhea, dysuria, urgency, or 
frequency. No arthralgias. His chest pain was non-exertional, no 
radiation to back, no radiation to shoulder or jaw. No cough, 
non-productive. Headache is mild, bitemporal over last 1 day, no 
focal weakness, no LOC, no diplopia, dysarthria, dysphagia. He 
did receive his flu vaccination this year.  
 He normally works in ___ and commutes daily from proper. He 
spends weekends relaxing. This does include yard work and 
outdoor activities. Denies any recent tick bites. No recent 
travel. No recent sick contacts. Otherwise reports excellent 
compliance with his HIV and cardiac mediations.  
 ED COURSE  
 - Initial vitals: 4 102.8 106 132/82 18 100% RA  
 - Exam notable for temp 102.8 ?OP issues, no-focal neuro exam  
 - Labs with platelets 136, HCO3 20, trace proteinuria, flu -  
 - CXR without acute cardiopulmonary process.  
 - Pt was given 1000cc NS, 1000mg acetaminophen, and amoxicillin 
1000mg  
 - Vitals prior to transfer: 99.1 82 101/61 18  
 
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) Denies night sweats, recent weight loss or gain. Denies 
sinus tenderness, rhinorrhea or congestion. Denies cough, 
shortness of breath. Denies palpitations. Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denies 
arthralgias.  

 
Past Medical History:
1. Obstructive sleep apnea.  
 2. HIV with a stable CD4 count on antiretroviral therapy  
 3. Moderate burden (20%) outflow tract ventricular ectopy.  
 4. Cardiomyopathy with ejection fraction of 45% by echo and 54% 
 
 by MRI, with no late gadolinium enhancement.  

 
Social History:
___
Family History:
Noncontributory for sudden cardiac death, arrhythmia, or 
coronary artery disease. 
 
Physical Exam:
Vital Signs: 91.1kg 98.2 102/64 74 18 99/RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx with minimal post 
erythema, tonsils 2+ w/o exudate. Normal ext auditory canals and 
___ b/l.  
NECK: supple, JVP not elevated, no LAD,, FROM  
CV: soft heart sounds overall, but RRR nl S1 + S2, no g/r/m. 2+ 
rad and DP pulses b/l. Chest pain not reproducible with 
palpation  
Lungs: CTAB with good movement in all fields, no w/r/r  
Back: No CVAT, no spinous process tenderness  
Abdomen: Soft, non-tender, non-distended, NABS, no organomegaly, 
no rebound or guarding.  
GU: No foley  
Ext: WWP, mildly diaphoretic no clubbing, cyanosis or edema. No 
peripheral stigmata of endocarditis.  
Skin: No rashes or erythema noted along limbs, face, 
abd/chest/back  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  

DISCHARGE EXAM
Vitals:  98.2 74 102/64 18 99%ra
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx without erythema or 
exudates  
Neck: supple, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
LABS:
___ 06:48AM BLOOD WBC-5.4 RBC-4.65 Hgb-15.3 Hct-44.2 MCV-95 
MCH-32.9* MCHC-34.6 RDW-12.8 RDWSD-44.2 Plt ___
___ 08:05PM BLOOD Neuts-74.7* Lymphs-12.7* Monos-11.9 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-5.00 AbsLymp-0.85* 
AbsMono-0.80 AbsEos-0.01* AbsBaso-0.02
___ 06:48AM BLOOD ___ PTT-29.4 ___
___ 06:48AM BLOOD Glucose-86 UreaN-11 Creat-1.1 Na-138 
K-3.6 Cl-103 HCO3-23 AnGap-16
___ 06:48AM BLOOD ALT-37 AST-25 LD(LDH)-184 CK(CPK)-101 
AlkPhos-93 TotBili-0.3
___ 06:48AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 08:05PM BLOOD cTropnT-<0.01 proBNP-31
___ 06:48AM BLOOD Calcium-8.4 Phos-3.1 Mg-2.0
___ 08:21PM BLOOD Lactate-1.2
.
IMAGING:
CXR ___
FINDINGS:  
PA and lateral views of the chest provided. 
There is no focal consolidation, effusion, or pneumothorax. The 
cardiomediastinal silhouette is normal. Imaged osseous 
structures are intact.  
No free air below the right hemidiaphragm is seen. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a PMH notable for HIV (on 
ART, well controlled)and cardiomyopathy with LVOT obstruction 
(last EF 45%) who presents with fever.  

ACUTE ISSUES  
# Fevers: Patient presented with fever to 102.8, sore throat, 
headache, myalgias, mild thrombocytopenia, and report of 
pharyngeal erythema from ED exam. Given CD4 count of 505, 
opportunistic infections are unlikely. Patient's presentation is 
most consistent with a viral syndrome. Additional etiologies 
include tickborne illnesses such as anaplasma or ehrlichia, as 
well as sexually transmitted infections such as pharyngeal 
gonorrhea infection. Patient was given acetaminophen and started 
on amoxicillin for suspicion of strep pharyngitis in the ED with 
symptomatic improvement. On the floor, he was afebrile and well 
appearing with stable vital signs. Studies for tickborne illness 
and sexually transmitted infection were sent, and the patient 
was discharged home with amoxicillin and plan for close 
outpatient follow up. 

# Chest Pain: Patient presented with sensation of chest 
tightness that resolved by the time he was admitted to the 
floor. Troponins were negative x2. Pain was likely related to 
febrile illness.

STABLE ISSUES  
# HIV: Well controlled, last CD4 count was 505 and per patient 
last VL undetectable. Continued home Atripla.
# CM with outflow obstruction: Appears controlled, EF 45%. 
Continued home lisinopril, metoprolol  

TRANSITIONAL ISSUES:
# Fever: Please follow up pending labs including GC throat swab 
and tickborne illness serologies, RPR, anaplasma and EBV 
serologies
# Substance use: Please continue to counsel patient on cocaine 
use

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ATRIPLA (efavirenz-emtricitabin-tenofov) ___ mg oral 
QHS 
2. Lisinopril 2.5 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1. Lisinopril 2.5 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN Fever / Pain 
4. ATRIPLA (efavirenz-emtricitabin-tenofov) ___ mg oral 
QHS 
5. Amoxicillin 500 mg PO Q12H Duration: 10 Days 
RX *amoxicillin 500 mg 1 capsule(s) by mouth twice a day Disp 
#*20 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Pharyngitis

Secondary
HIV
Obstructive sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a privilege to care for you here at ___ 
___.

___ was I here?
-You had fevers/chills and a sore-throat 

What was done while I was here?
-We ran some tests to check for viruses, bacteria and tick-borne 
infections.
-We started you on antibiotics for possible strep throat.

What should I when I get home
-Take your medications as prescribed
-Follow up with your primary care doctor. who will go over your 
test results with you, as these were still pending at the time 
of your discharge from the hospital.

We wish you all the best!
Your ___ team.
 
Followup Instructions:
___